US07994185B2
Intermediate 16: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
To a solution of N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (5.00 g, 11.3 mmol) in DMA (47.2 mL) was added NBS (2.115 g, 11.88 mmol). The reaction stirred 30 min at rt and then tetrahydro-2H-pyran-4-carbothioamide (2.137 g, 14.71 mmol) was added. The reaction stirred 16 h at rt. The reaction mixture was poured into water (500 mL), causing precipitation of a solid. The solid was collected by vacuum filtration, re-dissolved in EtOAc (200 mL), and concentrated onto silica gel. Purification by ISCO chromatography (20 to 100% EtOAc:hexanes) afforded the title compound (3.58 g, 5.87 mmol, 51.9% yield) as a light orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.93 (s, 1H), 8.55 (d, J=5.3 Hz, 1H), 7.58-7.79 (m, 1H), 7.38-7.52 (m, 2H), 7.33 (t, J=7.9 Hz, 1H), 7.24 (t, J=9.1 Hz, 2H), 6.87 (d, J=5.1 Hz, 1H), 3.84-4.00 (m, 2H), 3.41-3.54 (m, 2H), 3.31-3.39 (m, 1H), 1.92-2.13 (m, 2H), 1.66-1.91 (m, 2H); m/z (ESI): 567.03 [M+H]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 11.3 mmol, 5.00 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | NBS | 11.88 mmol, 2.115 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | tetrahydro-2H-pyran-4-carbothioamide | 14.71 mmol, 2.137 g | O1CCC(CC1)C(N)=S | C6H11NOS
reactant | water | 500 mL | O | H2O
solvent | DMA | 47.2 mL | CC(=O)N(C)C | C4H9NO
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 5.87 mmol, 3.58 g, 51.9% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C24H18ClF3N4O3S2
